US07521461B2
a) N-[2-(3,4-dimethoxyphenyl)ethyl]-3-(4-hydroxyphenyl)-N-methylpropanamide
3-(4-Hydroxyphenyl)propionic acid (166.2 mg, 1 mmol) was dissolved in DMF (4 ml). 2-(3,4-Dimethoxyphenyl)-N-methylethylamine (211 mg, 1.05 mmol) was added. The mixture was cooled in an ice-bath. TBTU (337 mg, 1.05 mmol) was added, followed by DIPEA (0.37 ml, 2.1 mmol). The mixture was stirred overnight and the temperature was allowed up to room temperature. Ethyl acetate and sodium hydrogencarbonate aqueous solution (sat.) were added and then the two phases were separated. The water phase was extracted with ethyl acetate. The organic phases were combined and dried (magnesium sulphate) and evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 5 g/15 ml) using DCM and then MeOH/DCM (1:99) as eluant gave 333 mg the desired product, yield 97%.

reactant | 3-(4-Hydroxyphenyl)propionic acid | 1 mmol, 166.2 mg | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | 2-(3,4-Dimethoxyphenyl)-N-methylethylamine | 1.05 mmol, 211 mg | COC=1C=C(C=CC1OC)CCNC | C11H17NO2
reactant | TBTU | 1.05 mmol, 337 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 2.1 mmol, 0.37 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-3-(4-hydroxyphenyl)-N-methylpropanamide | 333 mg, yield 97% | COC=1C=C(C=CC1OC)CCN(C(CCC1=CC=C(C=C1)O)=O)C | C20H25NO4
